US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1,3-di(2-naphthalenyl)prop-2-en-1-one and diethyl malonate, diethyl 2-(1,3-di(2-naphthalenyl)-3-oxopropyl)malonate was obtained as colourless solid.

reactant | 1,3-di(2-naphthalenyl)prop-2-en-1-one | C1=C(C=CC2=CC=CC=C12)C(C=CC1=CC2=CC=CC=C2C=C1)=O | C23H16O
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-(1,3-di(2-naphthalenyl)-3-oxopropyl)malonate | C1=C(C=CC2=CC=CC=C12)C(CC(=O)C1=CC2=CC=CC=C2C=C1)C(C(=O)OCC)C(=O)OCC | C30H28O5
